US08541588B2
4-{4-Chloro-2-[1-(1-methylazetidin-3-yl)-1H-pyrazol-5-yl]phenoxy}-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
An alternative method of preparing Example 811 is as follows: 4-[2-(1-Azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide trifluoroacetate salt, (Example 801, 110.45 g, 0.1558 mol) was dissolved in dichloromethane (1050 mL) and methanol (110.45 mL). Acetic acid (17.86 mL, 2.73 mol) was added followed by aqueous formaldehyde solution (58.54 mL of 37 wt % in water, 0.779 mol), stirred at room temperature for 30 minutes. The solution was then cooled in an ice bath and sodium triacetoxyborohydride (82.56 g, 0.3895 mol) was added, stirred whilst warming to room temperature over 1.5 hours. Aqueous formaldehyde solution (29.27 mL of 37 wt % in water, 0.3895 mol) was added, stirred for 30 minutes then sodium triacetoxyborohydride (82.56 g, 0.3895 mol) was added and stirred at room temperature for 1.5 hours. The reaction was quenched by adding water (552.25 mL) and stirred for 30 minutes then 0.880 aqueous ammonia solution (100 mL) was added in two equal portions and stirred for a further 30 minutes. The resulting solid was filtered off and dried to give the crude title compound as a white solid, (135 g). The crude product was suspended in ethanol (405 mL) and heated to reflux for 1 hour then water (405 mL) was added and the resulting slurry was stirred at 90° C. for 30 minutes before being allowed to cool to 35° C. The solid was filtered off and dried to give the title compound as a white solid, (67.5 g).

reactant | 4-[2-(1-Azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide trifluoroacetate salt | FC(C(=O)O)(F)F.N1CC(C1)N1N=CC=C1C1=C(OC2=CC(=C(C=C2F)S(=O)(=O)NC2=NC=NS2)F)C=CC(=C1)Cl
reactant | Acetic acid | 2.73 mol, 17.86 mL | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 0.779 mol, 58.54 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.3895 mol, 82.56 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 0.3895 mol, 29.27 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.3895 mol, 82.56 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 1050 mL | ClCCl | CH2Cl2
solvent | methanol | 110.45 mL | CO | CH4O
solvent | ethanol | 405 mL | C(C)O | C2H6O
solvent | water | 405 mL | O | H2O
product | 4-{4-Chloro-2-[1-(1-methylazetidin-3-yl)-1H-pyrazol-5-yl]phenoxy}-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 67.5 g | ClC1=CC(=C(OC2=CC(=C(C=C2F)S(=O)(=O)NC2=NC=NS2)F)C=C1)C1=CC=NN1C1CN(C1)C | C21H17ClF2N6O3S2
